US07834043B2
tert-butyl 3-methyl-N-(methylsulfonyl)-L-valinate
A solution of tert-butyl 3-methyl-L-valinate (50 mg, 0.223 mmol) in dichloromethane (1 mL) at 0° C. was treated with 4-(dimethylamino)pyridine (5.4 mg, 0.045 mmol), triethylamine (93.4 μL, 0.67 mmol), and methanesulfonyl chloride (34.5 L, 0.45 mmol), and the mixture was warmed to 25° C. for 1 h. The mixture was washed with 5% potassium bisulfate, saturated sodium bicarbonate, brine, and dried over MgSO4, filtered, and the solvents were evaporated to give the crude title compound (59 mg, 100%).

reactant | tert-butyl 3-methyl-L-valinate | 0.223 mmol, 50 mg | CC([C@H](N)C(=O)OC(C)(C)C)(C)C | C10H21NO2
reactant | triethylamine | 0.67 mmol, 93.4 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.45 mmol, 34.5 L | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.045 mmol, 5.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-methyl-N-(methylsulfonyl)-L-valinate | 59 mg, 100% | CC([C@H](NS(=O)(=O)C)C(=O)OC(C)(C)C)(C)C | C11H23NO4S
